US04904667
7-Nitro-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide.
To a stirred solution of 5-nitroisatoic anhydride (1.04 g, 5.0 mmol) and S-methyl-N-(chloromethanesulfonyl)isothiourea (1.04 g, 5.0 mmol) in acetonitrile (10 ml) under nitrogen is added 4-(N,N-dimethylamino)-pyridine (0.61 g, 5.0 mmol). The solution is refluxed for 16 hr, cooled, and poured into 10% aqueous citric acid. The resulting solid is collected by filtration and recrystallized twice from isopropanol/DMF, then from DMSO, to provide the title compound as a light yellow solid, mp >300° C. (225 mg, 16%).

reactant | 5-nitroisatoic anhydride | 5.0 mmol, 1.04 g | [N+](=O)([O-])C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4N2O5
reactant | S-methyl-N-(chloromethanesulfonyl)isothiourea | 5.0 mmol, 1.04 g | CSC(NS(=O)(=O)CCl)=N | C3H7ClN2O2S2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | 4-(N,N-dimethylamino)-pyridine | 5.0 mmol, 0.61 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 7-Nitro-1H-1,2,4-thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide | [N+](=O)([O-])C=1C=C2C(N3C(=NC2=CC1)NS(C3)(=O)=O)=O | C9H6N4O5S
